US08729105B2
Preparation of 5-(3,4-difluorophenyl)-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(3,4-difluorophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid (example BX) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; MS (ESI): 483.2 (M+H)+.

reactant | 5-(3,4-difluorophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid | FC=1C=C(C=CC1F)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H8F5NO3
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | 5-(3,4-difluorophenyl)-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | FC=1C=C(C=CC1F)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCC(F)(F)F | C18H10F8N4O3
